US05792788
2-[2-(5-Chloro-2-methoxybenzoylamino)ethyl]-5-(methyl-aminothiocarbonylaminosulfonyl)thiophene
375 mg of 2-[2-(5-chloro-2-methoxybenzoylamino)ethyl]-5-sulfamoylthiophene were dissolved in 3 ml of absolute DMF together with 415 mg of K2 CO3 and 90 mg of methyl isothiocyanate, and the mixture was then stirred for 3 h at 60° C. The cooled solution was introduced into 2N HCl and the resulting precipitate was filtered off with suction. The dried residue was chromatographed on silica gel using the eluent system ethyl acetate/toluene 1:1.

reactant | 2-[2-(5-chloro-2-methoxybenzoylamino)ethyl]-5-sulfamoylthiophene | 375 mg | ClC=1C=CC(=C(C(=O)NCCC=2SC(=CC2)S(N)(=O)=O)C1)OC | C14H15ClN2O4S2
reactant | methyl isothiocyanate | 90 mg | CN=C=S | C2H3NS
reactant | HCl | 2N | Cl | ClH
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[2-(5-Chloro-2-methoxybenzoylamino)ethyl]-5-(methyl-aminothiocarbonylaminosulfonyl)thiophene | ClC=1C=CC(=C(C(=O)NCCC=2SC(=CC2)S(=O)(=O)N(C(=S)N)C)C1)OC | C16H18ClN3O4S3
